US07893056B2
2-Chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone (0.105 g) and (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (0.182 g, 0.422 mmol) were dissolved in DMF (5 mL). NMM (0.21 mL, 1.91 mmol) was added, followed by HOAt (0.063 g, 0.463 mmol) and EDC (0.088 g, 0.459 mmol). After stirring for 2 days, the reaction mixture was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide as a maroon solid (0.1133 g). LCMS: (M+H)+=556.0.

reactant | 2-Chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone | 0.105 g | ClC=1NC(=C(C(N1)=NN)F)NCC=1N=CSC1 | C8H8ClFN6S
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.422 mmol, 0.182 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | NMM | 1.91 mmol, 0.21 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.463 mmol, 0.063 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.459 mmol, 0.088 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC=1N=CSC1 | C23H31ClFN7O4S
